US06313153B1
A mixture of 3,4,5-trimethoxybenzaldehyde (9.80 g, 50 mmol), nitromethane (18 ml), ammonium acetate (4.11 g) and acetic acid (38 ml) was heated and refluxed for 2 hours. After the reaction mixture was concentrated under reduced pressure, 10% aqueous sodium hydroxide solution was added to the residue and the reaction mixture was extracted with dichloromethane, washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure and the residue was purified by silica gel chromatography (dichloromethane) and recrystallized to yield trans-3,4,5-trimethoxy-β-nitrostyrene (4.96 g, 41%). Properties: mp 116-118° C. (ethanol)

reactant | 3,4,5-trimethoxybenzaldehyde | 50 mmol, 9.80 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | nitromethane | 18 ml | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 4.11 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 38 ml | C(C)(=O)O | C2H4O2
product | trans-3,4,5-trimethoxy-β-nitrostyrene | 4.96 g, 41% | COC=1C=C(/C=C/[N+](=O)[O-])C=C(C1OC)OC | C11H13NO5
